US07226923B2
4-Bromo-7-hydroxymethyl-2-isopropyl-2H-phthalazin-1-one
Bromo-3-isopropyl-4-oxo-3,4-dihydro-phthalazine-6-carboxylic acid ethyl ester (2.3 g, 6.8 mmol) was suspended in tetrahydrofuran (THF) (50 ml) and cooled to 0° C. To the suspension was added LiBH4 (5.1 ml of a 2M solution in THF, 10.2 mmol) dropwise, the suspension was allowed to warm to room temperature and stirred for 24 hours. After this time, LC-MS showed 50% starting material remained. To this was added LiBH4 (1.7 ml of a 2M solution in THF, 3.4 mmol) and the reaction mixture was stirred for a further 3 hours. The reaction was cooled to 0° C., saturated NH4Cl (40 ml) was added and the reaction mixture was then partitioned between water (50 ml) and dichloromethane (DCM) (150 ml). The organic layer was separated, dried (MgSO4), filtered and concentrated under vacuum. The resulting residue was then purified by flash column chromatography (elution: 50% toluene, 30% ethyl acetate, 20% DCM) to give the title compound (0.9 g, 43% yield) as a white solid.

reactant | Bromo-3-isopropyl-4-oxo-3,4-dihydro-phthalazine-6-carboxylic acid ethyl ester | 6.8 mmol, 2.3 g | C(C)OC(=O)C=1C=C2C(N(N=C(C2=CC1)Br)C(C)C)=O | C14H15BrN2O3
reactant | LiBH4 | [Li+].[BH4-]
reactant | NH4Cl | 40 ml | [NH4+].[Cl-]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 4-Bromo-7-hydroxymethyl-2-isopropyl-2H-phthalazin-1-one | 0.9 g, 43% yield | BrC1=NN(C(C2=CC(=CC=C12)CO)=O)C(C)C | C12H13BrN2O2
